US06071927
Z-(2S,3R)-3-(1-tert-Butoxycarbonyl-3-hydroxy-2-phenylpiperidin-3-yl)-2-(2-methoxyphenyl)prop-2-en-1-ol
Formic acid (138 ml, 3.77 mmol) was added to a stirred, degassed solution of (2S,3R)-1-tert-butoxycarbonyl-3-(3-hydroxypropyn-1-yl)-2-phenylpiperidin-3-ol (Description 7, 473 mg, 1.43 mmol), palladium (II) acetate (33 mg, 0.14 mmol), trio-o-tolylphosphine (85 mg, 0.28 mmol), tributylamine (1.12 ml, 4.87 mmol) and 2-iodoanisole (446 ml, 3.44 mmol) in N,N-dimethylformamide (3 ml) at room temperature and the resulting mixture was heated at 70° C. for 5 h. The mixture was cooled, filtered, diluted with ethyl acetate (50 ml), washed with water (100 ml), hydrochloric acid (2M, 50 ml) and saturated aqueous sodium chloride (50 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with hexane/ethyl acetate (60:40) to give the title compound as a yellow glass (220 mg, 35%). 1H NMR (360 MHz, CDCl3) δ7.41 (2H, d, J 7.6 Hz), 7.22-7.34 (4H, m), 7.12 (1H, dd, J 1.7, 7.4 Hz), 6.94 (1H, t, J 7.5 Hz), 6.89 (1H, d, J 8.2 Hz), 5.84 (1H, s), 5.00 (1H, s), 4.40 (1H, d, J 12.7 Hz), 4.15 (1H, dd, J 6.0, 13.1 Hz), 4.05 (1H, d, J 12.5 Hz), 3.86 (3H, s), 3.44 (1H, dt, J 5.6, 12.3 Hz), 2.04-2.18 (1H, m), 1.80-1.96 (3H, m), 1.28 (9H, s), and 1.64-1.84 (3H, m). m/z (ES+) 440 (M+1).

reactant | Formic acid | 3.77 mmol, 138 ml | C(=O)O | CH2O2
reactant | (2S,3R)-1-tert-butoxycarbonyl-3-(3-hydroxypropyn-1-yl)-2-phenylpiperidin-3-ol | 1.43 mmol, 473 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@](CCC1)(O)C#CCO)C1=CC=CC=C1 | C19H25NO4
reactant | o-tolylphosphine | 0.28 mmol, 85 mg | C1(=C(C=CC=C1)P)C | C7H9P
reactant | tributylamine | 4.87 mmol, 1.12 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-iodoanisole | 3.44 mmol, 446 ml | IC1=C(C=CC=C1)OC | C7H7IO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.14 mmol, 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Z-(2S,3R)-3-(1-tert-Butoxycarbonyl-3-hydroxy-2-phenylpiperidin-3-yl)-2-(2-methoxyphenyl)prop-2-en-1-ol | 220 mg, 35% | C(C)(C)(C)OC(=O)N1[C@H]([C@](CCC1)(O)\C=C(/CO)\C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C26H33NO5
